US09193689B2
3-Chloro-5-methyl-2H-isoquinolin-1-one (100 mg, 0.52 mmol), bis(pinacolato)diboron (157 mg, 0.62 mmol), Pd(dppf)Cl2 (42 mg, 0.054 mmol) and KOAc (153 mg, 1.56 mmol) in 1,4-dioxane (2 mL) were added to a microwave vial and the reaction mixture purged with N2 for 10 min. The reaction mixture was irradiated using a microwave reactor (300 W, 120° C., 20 min). The reaction mixture was passed through a Si-thiol cartridge and concentrated in vacuo. The crude product was purified by reverse phase preparative HPLC-MS to afford 5-methyl-1-oxo-1,2-dihydro-isoquinoline-3-boronic acid as a white solid (51 mg, 49%).

reactant | 3-Chloro-5-methyl-2H-isoquinolin-1-one | 0.52 mmol, 100 mg | ClC=1NC(C2=CC=CC(=C2C1)C)=O | C10H8ClNO
reactant | bis(pinacolato)diboron | 0.62 mmol, 157 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 1.56 mmol, 153 mg | CC(=O)[O-].[K+]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.054 mmol, 42 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-methyl-1-oxo-1,2-dihydro-isoquinoline-3-boronic acid | 51 mg, 49% | CC1=C2C=C(NC(C2=CC=C1)=O)B(O)O | C10H10BNO3
